US07214798B2
12.4. 4-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-4-fluoropiperidine
2.80 ml (37.06 mmol) of trifluoroacetic acid are added slowly to a solution of 3 g (6.17 mmol) of tert-butyl 4-(2-{[tert-butyldiphenylsilyl]oxy}ethyl)-4-fluoro-1-piperidinecarboxylate, obtained in step 12.3, in 20 ml of dichloromethane. Stirring is continued at room temperature for 5 hours. The reaction mixture is poured into a mixture of ice-water and 28% aqueous ammonia. The phases are separated by settling, the aqueous phase is extracted twice with dichloromethane and the combined organic phases are washed with saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure.

reactant | trifluoroacetic acid | 37.06 mmol, 2.80 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-{[tert-butyldiphenylsilyl]oxy}ethyl)-4-fluoro-1-piperidinecarboxylate | 6.17 mmol, 3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(CCN(CC1)C(=O)OC(C)(C)C)F | C28H40FNO3Si
reactant | ammonia | N | H3N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-4-fluoropiperidine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(CCNCC1)F | C23H32FNOSi
